US08017792B2
Synthesis of 3-(4-ethylphenyloxy)-bromobenzene
A suspension of 3-bromophenol (2.3 g, 13.3 mmol), 4-ethylphenyl boronic acid (1.0 g, 6.67 mmol), molecular sieve 4 A (14.7 g), Cu(OAc)2 (1.21 g, 6.67 mmol) and chloroform (25 mL) was stirred at room temperature for three minutes and added with triethylamine (3.6 mL) and pyridine (2.7 mL). The insolubles were filtered off with celite after the mixture was stirred for 15 hours. After the filtrate was concentrated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5) to obtain 1.89 g of a colorless oily title compound.

reactant | 3-bromophenol | 13.3 mmol, 2.3 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 4-ethylphenyl boronic acid | 6.67 mmol, 1.0 g | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | 3.6 mL | C(C)N(CC)CC | C6H15N
catalyst | Cu(OAc)2 | 6.67 mmol, 1.21 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | pyridine | 2.7 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-ethylphenyloxy)-bromobenzene | 1.89 g | C(C)C1=CC=C(C=C1)OC=1C=C(C=CC1)Br | C14H13BrO
